US08895570B2
Methyl [4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl]acetate hydrochloride
A mixture of methyl [4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl]acetate (6.0 g, 10.8 mmol) in MeOH (30 g) was stirred at 8° C. for 10 min. To the suspension, 35% aqueous HCl (1.1 g, 10.67 mmol) in MeOH (6 g mL) was added dropwise and warmed to 23° C. To the mixture was added more MeOH (3 g). MTBE (78 g) was added to the mixture, which was then stirred at 20° C. for 30 min. After seeding and stirring for 30 min, MTBE (42 g) was added, the suspension cooled to 3° C. and stirred for 1 hr. Then the suspension was filtered and collected solid washed with MTBE (15 g) and dried to give the title compound. M.P. 137-139° C. Yield 5.7 g, 90%; 1H NMR (DMSO-d6) δ 10.08 (br, 1H), 7.24 (d, 2H), 7.17 (d, 2H), 6.53 (br, 2H), 4.11 (t, 2H), 3.68 (t, 4H), 3.65 (s, 3H), 3.50 (s, 2H), 3.07-2.95 (m, 6H), 2.39 (m, 4H), 1.84-1.51 (m, 12H), 1.38-1.33 (m, 2H), 0.89 (t, 3H).

reactant | methyl [4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl]acetate | 10.8 mmol, 6.0 g | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCN(CCCN1CCCCC1)CC1=CC=C(C=C1)CC(=O)OC)=O | C30H45N7O4
reactant | HCl | 10.67 mmol, 1.1 g | Cl | ClH
reactant | MTBE | 78 g | CC(C)(C)OC | C5H12O
reactant | MTBE | 42 g | CC(C)(C)OC | C5H12O
solvent | MeOH | 30 g | CO | CH4O
solvent | MeOH | 6 g | CO | CH4O
solvent | MeOH | 3 g | CO | CH4O
product | Methyl [4-{[[3-(6-amino-2-butoxy-8-oxo-7,8-dihydro-9H-purin-9-yl)propyl](3-piperidin-1-ylpropyl)amino]methyl}phenyl]acetate hydrochloride | Cl.NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCN(CCCN1CCCCC1)CC1=CC=C(C=C1)CC(=O)OC)=O | InChI=1S/C30H45N7O4.ClH/c1-3-4-20-41-29-33-27(31)26-28(34-29)37(30(39)32-26)19-9-18-36(17-8-16-35-14-6-5-7-15-35)22-24-12-10-23(11-13-24)21-25(38)40-2;/h10-13H,3-9,14-22H2,1-2H3,(H,32,39)(H2,31,33,34);1H
